US05399768
The crude dihydrochloride salt of 4,6-diaminoresorcinol (57.0 g) containing 10% Pd/C catalyst is dissolved in 400 g of 6% (by weight) aqueous HCl at 80° C. The catalyst present is removed by filtration. An additional 50.0 g of concentrated HCl containing 1.5 g of stannous chloride dihydrate is added to the product mixture along with 5.0 g of activated carbon. The solution is heated at reflux for 15 minutes and the carbon is then removed by filtration. The filtrate is cooled to 0° C. to allow crystallization of the monomer. The resulting precipitate is isolated by filtration under a purge of dry nitrogen. This filter cake is then dried in vacuo at 40° C. to a constant weight to yield 48.7 g of essentially pure (99.8%) 4,6-diaminoresorcinol dihydrochloride having an m.p. of >300° C. with decomposition. Elemental Anal. calc'd for C6H10Cl2N2O2 (213.0642): C, 33.82; H, 4.73; Cl, 33.28; N, 13.15; O, 15.02, found: C, 33.6; H, 4.64; N, 13.20.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4,6-diaminoresorcinol | 57.0 g | NC1=C(C=C(O)C(=C1)N)O | C6H8N2O2
catalyst | Pd/C | [Pd] | Pd
solvent | HCl | Cl | ClH
product | 4,6-diaminoresorcinol dihydrochloride | 99.8% | Cl.Cl.NC1=C(C=C(O)C(=C1)N)O | InChI=1S/C6H8N2O2.2ClH/c7-3-1-4(8)6(10)2-5(3)9;;/h1-2,9-10H,7-8H2;2*1H
